US07105533B2
3-methyoxy-4-pyridin-2-ylbenzonitrile (104 mg, 0.95 mmol) and 1-aminopyridin-2(1H)-one (198 mg, 0.95 mmol) were dissolved in a solution of potassium t-butoxide (2 mL of 1M in t-butanol, 2.0 mmol). The reaction mixture was heated to 115° C. for 1 h, cooled and concentrated. The residue was purified by flash column chromatography on silica gel eluting with MeOH:CH2Cl2 (1:19) to afford the desired 2-(3-methoxy-4-pyridin-2-ylphenyl)[1,2,4]triazolo[1,5-a]pyridine. 1H NMR (CDCl3, 300 MHz) δ 8.75 (m, 1H), 8.64 (d, 1H), 8.06 (dd, 1H), 7.97 (s, 1H), 7.94 (m, 2H), 7.81 (d, 1H), 7.74 (dt, 1H), 7.55 (m, 1H), 7.25 (m, 1H), 7.05 (dt, 1H), 4.03 (s, 3H) ppm. 3C NMR (CDCl3, 75 MHz) δ 163.8, 157.2, 155.5, 151.7, 149.4, 135.7, 132.2, 131.5, 130.6, 129.6, 128.3, 125.2, 121.9, 120.0, 116.4, 113.8, 110.0, 55.8 ppm. MS (ESI) 303 (M)+.

reactant | 3-methyoxy-4-pyridin-2-ylbenzonitrile | 0.95 mmol, 104 mg | COC=1C=C(C#N)C=CC1C1=NC=CC=C1 | C13H10N2O
reactant | 1-aminopyridin-2(1H)-one | 0.95 mmol, 198 mg | NN1C(C=CC=C1)=O | C5H6N2O
reactant | potassium t-butoxide | 2.0 mmol, 1M, 2 mL | CC(C)([O-])C.[K+]
product | 2-(3-methoxy-4-pyridin-2-ylphenyl)[1,2,4]triazolo[1,5-a]pyridine | COC=1C=C(C=CC1C1=NC=CC=C1)C1=NN2C(C=CC=C2)=N1 | C18H14N4O
